US06136823
Synthesis of 1-(5-Amino-2,4-difluorophenyl)-8-methyl-6-fluoro-7-(3-hydroxy-n-propylamino)-4-oxo-1,4-dihydroquinoline-3-carboxylic Acid
1-(5-Amino-2,4-difluorophenyl)-8-methyl-6,7-difluoro-4-oxo-1,4-dihydroquinoline-3-carboxylic acid (500 mg), 3-amino-1-propanol (400 mg) and N-methylpyrrolidine (170 mg) were added to pyridine (1,500 mg), and the mixture was stirred at 70° C. for 15 hours. Since the raw material were not dissolved, N,N-dimethylformamide (1 ml) was added to the mixture, followed by stirring at 70° C. for 43 hours. The reaction mixture was concentrated under reduced pressure. A process of adding distilled water (1 ml) to the residue and then concentrating the mixture under reduced pressure was conducted 3 times repeatedly. Another process of adding toluene (1.5 ml) to the resultant residue and then concentrating the mixture under reduced pressure was conducted 3 times repeatedly. A further process of adding ethanol (1.5 ml) to the resultant residue and then concentrating the mixture under reduced pressure was conducted 3 times repeatedly. Ethanol (1 ml) was added to the resultant residue, and the mixture was heated under reflux for 5 minutes and allowed to cool. Deposits were collected by filtration and washed with ethanol and diisopropyl ether in that order to obtain the title compound (155 mg) as a colorless powder.

reactant | 1-(5-Amino-2,4-difluorophenyl)-8-methyl-6,7-difluoro-4-oxo-1,4-dihydroquinoline-3-carboxylic acid | 500 mg | NC=1C(=CC(=C(C1)N1C=C(C(C2=CC(=C(C(=C12)C)F)F)=O)C(=O)O)F)F | C17H10F4N2O3
reactant | 3-amino-1-propanol | 400 mg | NCCCO | C3H9NO
reactant | N-methylpyrrolidine | 170 mg | CN1CCCC1 | C5H11N
reactant | pyridine | 1,500 mg | N1=CC=CC=C1 | C5H5N
solvent | N,N-dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
product | 1-(5-Amino-2,4-difluorophenyl)-8-methyl-6-fluoro-7-(3-hydroxy-n-propylamino)-4-oxo-1,4-dihydroquinoline-3-carboxylic Acid | 155 mg | NC=1C(=CC(=C(C1)N1C=C(C(C2=CC(=C(C(=C12)C)NCCCO)F)=O)C(=O)O)F)F | C20H18F3N3O4
